US07960567B2
Methyl 2-(3-methoxy-4-(4-nitro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-5-yloxy)phenyl)acetate (22.6).
To methyl-3-methoxy-4-hydroxyphenylacetate (0.062 g, 0.32 mmol) in dry THF (5 mL) under nitrogen was added sodium hexamethyldisylazide (1M solution in THF) (312 μl, 0.31 mmol). After 10 min. stirring at room temperature 5-chloro-4-nitro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole (93 mg, 0.28 mmol) in 5 mL of THF was added. The resulting mixture was stirred at reflux for 5 days. After that time the mixture was quenched with water and extracted with ethyl acetate (3×25 mL). The combined organic extracts were washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The desired product was isolated by chromatography (10% ethyl acetate/hexane). 1H NMR (400 MHz) (CDCl3) δ 8.40 (s, 1H); 7.70 (d, J=9.1 Hz, 1H); 7.05 (d, J=9.1 Hz, 1H); 6.95 (m, 2H), 6.84 (dd, J=1.5, 8.0 Hz, 1H); 5.75 (s, 2H); 3.82 (s, 3H), 3.62, s, 3H); 3.62 (s, 2H); 3.57 (t, J=8.0 Hz, 2H); 0.89 (t, J=8.0 Hz, 2H); 0.0 (s, 9H).

reactant | methyl-3-methoxy-4-hydroxyphenylacetate | 0.32 mmol, 0.062 g | COC(CC1=CC(=C(C=C1)O)OC)=O | C10H12O4
reactant | sodium | [Na] | Na
reactant | 5-chloro-4-nitro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole | 0.28 mmol, 93 mg | ClC=1C(=C2C=NN(C2=CC1)COCC[Si](C)(C)C)[N+](=O)[O-] | C13H18ClN3O3Si
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 2-(3-methoxy-4-(4-nitro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-5-yloxy)phenyl)acetate | COC=1C=C(C=CC1OC=1C(=C2C=NN(C2=CC1)COCC[Si](C)(C)C)[N+](=O)[O-])CC(=O)OC | C23H29N3O7Si
